*Electric Guitar Pickup with 250kOhm Volume and Tone Controls SPICE Subcircuit
*
*VG1=Sine Wave Generator (100mV P-P 440 Hz)
*R3-R2=250kOhms Tone Control (Voltage Divider set to 99 Percent Maximum)
*R5-R4=250kOhms Volume Control (Voltage Divider set to 99 Percent Maximum)
*C1=Pickup Capacitance (120pF)
*C2=Tone Capacitor (.022uF)
*R1=Pickup Resistance (10kOhms)
*L1=Pickup Inductance (2.5H)
*
*Connections:***OUT
************* | GND
************* | |
.SUBCKT EGUITAR 1 2
*VG1 6 3 SIN(0 0.1 1K)
VG1 6 3 AC 1 0
R5 2 3 247.5K
R4 4 2 2.5K
R2 5 1 2.5K
R3 4 5 247.5K
C2 5 3 22N
C1 4 3 120P
R1 7 6 10K
L1 4 7 2.5H
.ENDS
